US08138187B2
1-Butyl-4-(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine hydrochloride
1-Butyl-4-(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine (266 mg, 0.8 mmol) was dissolved in ethyl methyl ketone (30 ml). Me3SiCl (20.5 μl, 1.6 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl methyl ketone (2×5 ml) and then dried. Example 79 (193 mg, m.p. 255-265° C., 61%) was a white solid

reactant | 1-Butyl-4-(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine | 0.8 mmol, 266 mg | C(CCC)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)F)N(C)C | C21H31FN2
reactant | Me3SiCl | 1.6 mmol, 20.5 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 30 ml | CC(=O)CC | C4H8O
product | 1-Butyl-4-(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine hydrochloride | Cl.C(CCC)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)F)N(C)C | InChI=1S/C21H31FN2.ClH/c1-5-6-11-21(24(3)4)12-9-16(10-13-21)20-15(2)18-14-17(22)7-8-19(18)23-20;/h7-8,14,16,23H,5-6,9-13H2,1-4H3;1H
